US05024998
Preparation of 3-Pyridinecarboxylic acid (2-hydroxy)ethyl ester hydrochloride
To 120 mL cold (-10° C.) ethylene glycol, 16 mL of thionyl chloride were added dropwise. Upon completion of the addition, 24.6 g (0.2 mol) of nicotinic acid were added portionwise and the reaction mixture was heated overnight at 60° C. Then, 700 mL of hot tetrahydrofuran were added and the mixture was cooled. The solid which formed was removed by filtration and washed with ether to give 28.5 g of the title compound as white crystals.

reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | thionyl chloride | 16 mL | S(=O)(Cl)Cl | Cl2OS
reactant | nicotinic acid | 0.2 mol, 24.6 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
solvent | tetrahydrofuran | 700 mL | O1CCCC1 | C4H8O
product | 3-Pyridinecarboxylic acid (2-hydroxy)ethyl ester hydrochloride | 28.5 g | Cl.OCCOC(=O)C=1C=NC=CC1 | InChI=1S/C8H9NO3.ClH/c10-4-5-12-8(11)7-2-1-3-9-6-7;/h1-3,6,10H,4-5H2;1H
